US08030334B2
To a solution of 5-bromo-3-pyridine-carboxaldehyde (1.5 g, 7.9 mmol), methanesulfonamide (0.5 g, 5.3 mmol), acetic acid (0.637 g, 10.6 mmol), triethylamine (1.07 g, 10.6 mmol) in DCE (50 mL) at ambient temperature is added NaBH(OAc)3 (3.14 g, 14.84 mmol). The reaction mixture is stirred overnight. Aqueous NaHCO3 (20 mL) is added and the organic phase is separated. The aqueous phase is extracted with dichloromethane and the combined organic phase is dried over Na2SO4. Concentration affords a residue which is purified by silica gel flash chromatography with a methanol in dichloromethane gradient to afford N-(5-bromo-pyridin-3-ylmethyl)-methanesulfonamide as a solid. MS (ESI) m/z 266.9 (M+H)+.

reactant | 5-bromo-3-pyridine-carboxaldehyde | 7.9 mmol, 1.5 g | BrC=1C=C(C=NC1)C=O | C6H4BrNO
reactant | methanesulfonamide | 5.3 mmol, 0.5 g | CS(=O)(=O)N | CH5NO2S
reactant | acetic acid | 10.6 mmol, 0.637 g | C(C)(=O)O | C2H4O2
reactant | triethylamine | 10.6 mmol, 1.07 g | C(C)N(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 14.84 mmol, 3.14 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | N-(5-bromo-pyridin-3-ylmethyl)-methanesulfonamide | BrC=1C=C(C=NC1)CNS(=O)(=O)C | C7H9BrN2O2S
